US08466290B2
Tert-butyl carbazate (549 mg, 4.15 mmol) was added to a methylene chloride (10 mL) solution of commercially available 5-methylfuran-2-carbonyl chloride (500 mg, 3.46 mmol) under ice cooling, and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated, and then, the residue was dissolved in methylene chloride (10 mL). To the solution, trifluoroacetic acid (2 mL) was added, and the mixture was stirred at room temperature for 1.5 hours. The reaction solution was concentrated to obtain 5-methylfuran-2-carbohydrazide.

reactant | Tert-butyl carbazate | 4.15 mmol, 549 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 5-methylfuran-2-carbonyl chloride | 3.46 mmol, 500 mg | CC1=CC=C(O1)C(=O)Cl | C6H5ClO2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-methylfuran-2-carbohydrazide | CC1=CC=C(O1)C(=O)NN | C6H8N2O2
